US03939276
Dipotassium anthraquinone-2,6-dicarboxylate
Anthraquinone-2,6-dicarboxylic acid (1.00g) was dissolved in the minimum quantity of water (20 ml) containing one equivalent of potassium bicarbonate (0.68g) at the boil. The solution was filtered whilst hot and allowed to crystallise. The product which separated was filtered off, dried at 100°C, and analysed for the dihydrate. Analysis: Required Carbon 47.06, Hydrogen 2.47%; Found Carbon 47.09, Hydrogen 2.48%.

reactant | Anthraquinone-2,6-dicarboxylic acid | 1.00g | C1=C(C=CC=2C(C3=CC(=CC=C3C(C12)=O)C(=O)O)=O)C(=O)O | C16H8O6
reactant | potassium bicarbonate | 0.68g, one equivalent | C([O-])(O)=O.[K+]
solvent | water | 20 ml | O | H2O
product | Dipotassium anthraquinone-2,6-dicarboxylate | C1=C(C=CC=2C(C3=CC(=CC=C3C(C12)=O)C(=O)[O-])=O)C(=O)[O-].[K+].[K+] | InChI=1S/C16H8O6.2K/c17-13-9-3-1-7(15(19)20)5-11(9)14(18)10-4-2-8(16(21)22)6-12(10)13;;/h1-6H,(H,19,20)(H,21,22);;/q;2*+1/p-2
